US07858653B2
To a stirred solution of 2,3-difluorophenol (109 mg) at room temperature in dimethylformamide DMF (5 ml) under an argon atmosphere were added 2-chloromethyl-1-trityl-1H-imidazole (200 mg) and potassium carbonate (193 mg). The mixture was heated to 80° C. and stirring was continued overnight. The brown suspension was cooled to room temperature, diluted with EtOAc and washed with 1 N NaOH. The aqueous phase was back extracted with EtOAc. The combined organics were washed with H2O and brine, dried over MgSO4, filtered and concentrated. The crude product was purified by column chromatography (silica gel; gradient:cyclohexane→cyclohexane/EtOAc 55:45) to give 2-(2,3-difluoro-phenoxymethyl)-1-trityl-1H-imidazole (240 mg) as a light yellow gum. MS (ISP): 453.0 ([M+H]+)

reactant | 2,3-difluorophenol | 109 mg | FC1=C(C=CC=C1F)O | C6H4F2O
reactant | 2-chloromethyl-1-trityl-1H-imidazole | 200 mg | ClCC=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19ClN2
reactant | potassium carbonate | 193 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide DMF | 5 ml | CN(C=O)C.CN(C)C=O | 2C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(2,3-difluoro-phenoxymethyl)-1-trityl-1H-imidazole | 240 mg | FC1=C(OCC=2N(C=CN2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1F | C29H22F2N2O
